US05773463
(±)cis-1-(2-Benzylphenoxy)-2-methylaminoindane Hydrochloride (E12)
To a solution of LiAlH4 (436 mg, 12 mmol) in dry tetrahydrofuran (30 ml) under nitrogen was added dropwise a solution of (±)cis-1-(2-benzylphenoxy)-2-tert-butoxycarbonylaminoindane (500 mg, 1.2 mmol) in dry tetrahydrofuran (10 ml). The reaction was heated at reflux for 2 h then cooled with an ice/water bath and quenched with the minimum of water. The reaction was filtered and dried over Na2 SO4. Solvents were removed in vacuo and the residue subjected to column chromatography on silica gel eluting with 5% ethanol in chloroform to afford a colourless oil (356 mg,) which was converted to the HCl salt and crystallised to afford the title compound as a white solid. m.p. 191°-193° C. (from acetonediethyl ether).

reactant | LiAlH4 | 12 mmol, 436 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±)cis-1-(2-benzylphenoxy)-2-tert-butoxycarbonylaminoindane | 1.2 mmol, 500 mg | C(C1=CC=CC=C1)C1=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=CC=C1 | C27H29NO3
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (±)cis-1-(2-Benzylphenoxy)-2-methylaminoindane Hydrochloride | Cl.C(C1=CC=CC=C1)C1=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC)C=CC=C1 | InChI=1S/C23H23NO.ClH/c1-24-21-16-18-11-5-7-13-20(18)23(21)25-22-14-8-6-12-19(22)15-17-9-3-2-4-10-17;/h2-14,21,23-24H,15-16H2,1H3;1H/t21-,23+;/m0./s1
